US08202858B2
4-[3-(4-Carboxy-2-methyl-phenoxy)-propyl]-piperidine-1-carboxylic Acid Tert-butyl Ester
2M NaOH solution (1.25 ml, 2.5 mmol) was added to 4-[3-(4-methoxycarbonyl-2-methyl-phenoxy)-propyl]-piperidine-1-carboxylic acid tert-butyl ester from Example E68.2 (340 mg, 0.87 mmol) in dioxan (10 ml) and the mixture was heated at 60° C. for 20 h. 2M NaOH solution (5 ml, 10 mmol) was added and the mixture was heated at 60° C. for 20 h then concentrated in vacuo. The residue was purified by flash chromatography on silica gel through an isolute (eluant; 1% acetic acid:9% methanol:90% dichloromethane) to yield the title compound (303 mg, 92%).

reactant | NaOH | 2.5 mmol, 2M, 1.25 ml | [OH-].[Na+]
reactant | 4-[3-(4-methoxycarbonyl-2-methyl-phenoxy)-propyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCOC1=C(C=C(C=C1)C(=O)OC)C | C22H33NO5
reactant | NaOH | 10 mmol, 2M, 5 ml | [OH-].[Na+]
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(4-Carboxy-2-methyl-phenoxy)-propyl]-piperidine-1-carboxylic Acid Tert-butyl Ester | 303 mg, 92% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCOC1=C(C=C(C=C1)C(=O)O)C | C21H31NO5
